US05206231
A solution of 6.87 g (63 mmol) of cyanogen bromide in 15 mL of methanol was added to a solution of 15 g (63 mmol) of 1,2,3,4,5,6-hexahydro-1-phenyl-2,5-benzodiazocine in 110 mL of methanol at 0°. The reaction was allowed to come to room temperature and stirred 3 hours. The reaction was stripped and the residue partitioned between ethyl acetate and water made slightly acidic with 6N HCl. The aqueous layer was made basic, extracted into ethyl acetate, dried, stripped and chromatographed on ten times its weight of silica gel, eluting with 1:9 ethyl acetate/dichloromethane. There was obtained 5.93 g of 6-phenyl-3,4,5,6-tetrahydro-2,5-benzodiazocine-2(1H)-carbonitrile, mp 134°-135° from dichloromethane/ether/hexane.

reactant | cyanogen bromide | 63 mmol, 6.87 g | N#CBr | CBrN
reactant | 1,2,3,4,5,6-hexahydro-1-phenyl-2,5-benzodiazocine | 63 mmol, 15 g | C1(=CC=CC=C1)C1NCCNCC2=C1C=CC=C2 | C16H18N2
solvent | methanol | 15 mL | CO | CH4O
solvent | methanol | 110 mL | CO | CH4O
product | 6-phenyl-3,4,5,6-tetrahydro-2,5-benzodiazocine-2(1H)-carbonitrile | 5.93 g | C1(=CC=CC=C1)C1NCCN(CC2=C1C=CC=C2)C#N | C17H17N3
